US07855297B2
By the reaction and treatment in the same manner as in Example 132 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.20 g) and 4-chloromethyl-2-ethylthiazole (0.49 g) as starting materials, 5-benzyloxy-N-[(2-ethylthiazol-4-yl)methyl]-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.30 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.20 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)NC=1C=NC(=CC1)C(C)C | C26H28N2O2
reactant | 4-chloromethyl-2-ethylthiazole | 0.49 g | ClCC=1N=C(SC1)CC | C6H8ClNS
product | 5-benzyloxy-N-[(2-ethylthiazol-4-yl)methyl]-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.30 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC=1N=C(SC1)CC | C32H35N3O2S
